US07678783B2
To a solution of methyl N-(diphenylmethylene)alaninate (2.6 g, 9.7 mmol) in DMF (20 mL) cooled to 0° C. was added NaHMDS (12.2 mL, 12.2 mmol, 1M in THF) slowly via syringe and the reaction mixture was stirred at 0° C. for 15 min at which point 3-bromo-benzyl bromide (2.55 g, 10.2 mmol) in DMF (10 mL) was added slowly via syringe. The reaction mixture was allowed to warm to rt over 16 h, quenched with aq NH4Cl and water, extracted with EtOAc, washed with aq LiCl (×3), dried over Na2SO4, concentrated in vacuo, and purified by flash chromatography (120 g silica, 0-15% EtOAc in hexanes) to provide methyl 3-bromo-N-(diphenylmethylene)-α-methylphenylalaninate.

reactant | methyl N-(diphenylmethylene)alaninate | 9.7 mmol, 2.6 g | C1(=CC=CC=C1)C(=N[C@@H](C)C(=O)OC)C1=CC=CC=C1 | C17H17NO2
reactant | NaHMDS | 12.2 mmol, 1M, 12.2 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 3-bromo-benzyl bromide | 10.2 mmol, 2.55 g | BrC=1C=C(CBr)C=CC1 | C7H6Br2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 3-bromo-N-(diphenylmethylene)-α-methylphenylalaninate | BrC=1C=C(C[C@](N=C(C2=CC=CC=C2)C2=CC=CC=C2)(C(=O)OC)C)C=CC1 | C24H22BrNO2
